US07858784B2
Synthesis of ethyl 2-(4-fluorophenylamino)benzoate (FIG. 9, Table 5, Entry 2)
Following general procedure A, a mixture of 4-fluorophenylmethanesulfonate (95 mg, 0.5 mmol), ethyl 2-aminobenzoate (89 μL, 0.6 mmol), K2CO3 (97 mg, 0.7 mmol), 10 (4 mg, 1 mol %), 1 (2.5 mg, 1 mol %), and t-BuOH (6 mL) was heated to 110° C. for 16 h. The crude product was purified via the Biotage SP4 (silica-packed 25+M; 0-20% EtOAc/hexanes) to provide the title compound as a yellow oil (118 mg, 91%). 1H NMR (300 MHz, CDCl3) δ: 9.44 (s, 1H), 7.99 (d, J=8.0 Hz, 1H), 7.30 (t, J=7.5 Hz, 1H), 7.21 (m, 2H), 7.07 (m, 3H), 6.73 (t, J=7.5 Hz, 1H), 4.37 (q, J=7.5 Hz, 2H), 1.42 (t, J=7.5 Hz, 3H) ppm. 13C NMR (75 MHz, CDCl3) δ: 168.8, 161.3, 158.1, 148.8, 136.9, 136.9, 134.4, 131.9, 125.4, 125.3, 117.1, 116.5, 116.2, 113.6, 112.0, 60.9, 14.6 ppm. IR (neat, cm−1): 3316, 2982, 1683, 1583, 1513, 1455, 1260, 1233, 1082, 749. Anal. Calcd. for C15H14FNO2: C, 69.49; H, 5.44. Found: C, 70.14; H, 5.64.

reactant | 4-fluorophenylmethanesulfonate | 0.5 mmol, 95 mg | FC1=CC=C(C=C1)CS(=O)(=O)[O-]
reactant | ethyl 2-aminobenzoate | 0.6 mmol, 89 μL | NC1=C(C(=O)OCC)C=CC=C1 | C9H11NO2
reactant | K2CO3 | 0.7 mmol, 97 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | t-BuOH | 6 mL | CC(C)(C)O | C4H10O
product | ethyl 2-(4-fluorophenylamino)benzoate | 118 mg, 91% | FC1=CC=C(C=C1)NC1=C(C(=O)OCC)C=CC=C1 | C15H14FNO2
